US08486968B2
(b) 6-Methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester
A mixture of 6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester (6.0 g, 15.9 mmol), Pd/C (800 mg) and EtOH (100 mL) is stirred under 60 psi H2-atmosphere for 6 h. The mixture is filtered, and the filtrate is concentrated. HPLC Rt=1.13 min (method A). MS m/z: 347 [M+H]+.

reactant | 6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester | 15.9 mmol, 6.0 g | C(C)OC(C1=C(N=C(C(=C1)[N+](=O)[O-])NC)N1CCC(CC1)C(F)(F)F)=O | C15H19F3N4O4
catalyst | Pd/C | 800 mg | [Pd] | Pd
solvent | EtOH | 100 mL | CCO | C2H6O
product | 6-Methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester | C(C)OC(C1=C(N=C(C(=C1)N)NC)N1CCC(CC1)C(F)(F)F)=O | C15H21F3N4O2
